US08304419B2
Step C: 5-chloro-N-[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-methyl-1H-imidazole-4-carboxamide
To a solution of 1,1-dimethylethyl[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]{[4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-5-yl]carbonyl}carbamate (66 mg, 0.099 mmol) in DCM (5 ml) was added Meerwein's reagent (16.13 mg, 0.109 mmol) and the reaction mixture was stirred for 4 hours at RT. TFA (2.0 ml, 26.0 mmol) was added and the reaction mixture was stirred at RT for another 2 hours. The solvent was removed and the crude material was purified via reverse phase HPLC to give the title compound (34 mg, 76% yield). 1H NMR (DMSO-d6) δ ppm 8.66 (t, 1H) 7.87 (s, 1H) 7.44-7.57 (m, 2H) 7.25-7.39 (m, 2H) 7.19 (s, 1H) 4.51 (s, 2H) 4.45 (d, 2 H) 2.50 (s, 3H). LC-MS (ES+) m/z 449.11 [M+H].

reactant | 1,1-dimethylethyl[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]{[4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-5-yl]carbonyl}carbamate | 0.099 mmol, 66 mg | CC(C)(C)C(C1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CO)C#N)F)N(C([O-])=O)C(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl
reactant | Meerwein's reagent | 0.109 mmol, 16.13 mg | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | TFA | 26.0 mmol, 2.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-methyl-1H-imidazole-4-carboxamide | 34 mg, 76% yield | ClC1=C(N=CN1C)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CO)C#N)F | C20H15Cl2FN4O3
